US06331538B1
2-(2,4-Difluoroanilino)-4,5-difluorobenzoic Acid
Lithium diisopropylamide was generated at −5° C. by combining diisopropylamine (7.2 mL, 51 mmol) and n-butyl lithium (33 mL, 53 mmol) in 150 mL of dry THF. After 30 minutes, the solution was cooled to −78° C. and 2,4-difluoroaniline (3.46 mL, 34 mmol) was added and stirred for 2 hours. 2,4,5-Trifluorobenzoic acid (3.0 g, 17 mmol) was added, and the mixture was allowed to warm to room temperature over 17 hours. A saturated solution of HCl/dioxane (10 mL) was added, and after 1 hour the mixture was concentrated to a solid. The solid was redissolved in chloroform and washed with 1N HCl, water, and brine. The solution was dried and concentrated to afford 4.54 g of the title compound as a solid.

reactant | Lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | 51 mmol, 7.2 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 53 mmol, 33 mL | C(CCC)[Li]
reactant | 2,4-difluoroaniline | 34 mmol, 3.46 mL | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | 2,4,5-Trifluorobenzoic acid | 17 mmol, 3.0 g | FC1=C(C(=O)O)C=C(C(=C1)F)F | C7H3F3O2
reactant | HCl dioxane | 10 mL | Cl.O1CCOCC1
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 2-(2,4-Difluoroanilino)-4,5-difluorobenzoic Acid | 4.54 g | FC1=C(NC2=C(C(=O)O)C=C(C(=C2)F)F)C=CC(=C1)F | C13H7F4NO2
